US05037829
A solution of 6 parts of intermediate 52, namely 4-[(1H-imidazol-1-yl)phenylmethyl]-2-nitrobenzonitrile, in 316 parts of methanol saturated with ammonia was hydrogenated at room temperature and normal pressure with 3 parts of Raney nickel. After the calculated amount of hydrogen was taken up, the catalyst was filtered off and the filtrate was evaporated. The residue was co-evaporated with a mixture of methanol and methylbenzene, yielding 4.8 parts (82.9%) of 2-amino-4-[(1H-imidazol-1-yl)phenylmethyl]benzamide (interm. 53).

reactant | 4-[(1H-imidazol-1-yl)phenylmethyl]-2-nitrobenzonitrile | N1(C=NC=C1)C(C1=CC(=C(C#N)C=C1)[N+](=O)[O-])C1=CC=CC=C1 | C17H12N4O2
reactant | ammonia | N | H3N
reactant | hydrogen | [H][H] | H2
reactant | methanol | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
product | 2-amino-4-[(1H-imidazol-1-yl)phenylmethyl]benzamide | 82.9% | NC1=C(C(=O)N)C=CC(=C1)C(C1=CC=CC=C1)N1C=NC=C1 | C17H16N4O
